US04547506
2-[N-(3-aminopropyl)-N-methylamino]pyridine (1.0 g) and 2-methylthio-5-(4-chlorobenzyl)pyrimid-4-one (1.33 g) were heated together under reflux in pyridine (3 ml) for 20 hr. The mixture was stripped and the residue recrystallised twice from ethanol to give 2-[3-(N-methyl-N-pyrid-2-ylamino) propylamino]-5-(4-chlorobenzyl)pyrimid-4-one 0.5H2O. 1.16 g (59%) mp ca. 65° C. (softens).

reactant | 2-[N-(3-aminopropyl)-N-methylamino]pyridine | 1.0 g | NCCCN(C)C1=NC=CC=C1 | C9H15N3
reactant | 2-methylthio-5-(4-chlorobenzyl)pyrimid-4-one | 1.33 g | CSC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)Cl | C12H11ClN2OS
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-(N-methyl-N-pyrid-2-ylamino) propylamino]-5-(4-chlorobenzyl)pyrimid-4-one | CN(C1=NC=CC=C1)CCCNC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)Cl | C20H22ClN5O
